US07566724B2
Under an argon atmosphere, a solution of N-(4-iodophenyl)pyrimidin-2-amine (8.00 g) in anhydrous DMF (50 ml) was added dropwise to a suspension of sodium hydride (1.08 g) in anhydrous DMF (200 ml), and the resulting mixture was stirred at room temperature for 80 minutes. To the reaction solution, 2-iodopropane (4.03 ml) was added, and the resulting mixture was stirred at room temperature for 2 hours. Sodium hydride (1.08 g) was added to the reaction solution and thereafter 2-iodopropane (4.03 ml) was added dropwise thereto, followed by stirring the resulting mixture at room temperature for 6 hours. Water was added to the reaction solution and the resulting mixture was extracted twice with ethyl acetate. Organic layers were washed 4 times with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was purified by column chromatography (silica gel, eluent: cyclohexane-cyclohexane/ethyl acetate=50/1). The obtained solid was recrystallized from hexane to obtain N-(4-iodophenyl)-N-isopropylpyrimidin-2-amine (7.06 g). NMR (H1, CDCl3): δ 1.14(3H, s), 1.16 (3H, s), 5.12-5.19 (1H, m), 6.52 (1H, t, J=4.6 Hz), 6.88-6.92 (2H, m), 7.74-7.77 (2H, m), 8.29 (2H, d, J=4.6 Hz)

reactant | N-(4-iodophenyl)pyrimidin-2-amine | 8.00 g | IC1=CC=C(C=C1)NC1=NC=CC=N1 | C10H8IN3
reactant | sodium hydride | 1.08 g | [H-].[Na+]
reactant | 2-iodopropane | 4.03 ml | IC(C)C | C3H7I
reactant | Sodium hydride | 1.08 g | [H-].[Na+]
reactant | 2-iodopropane | 4.03 ml | IC(C)C | C3H7I
reactant | Water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-(4-iodophenyl)-N-isopropylpyrimidin-2-amine | 7.06 g | IC1=CC=C(C=C1)N(C1=NC=CC=N1)C(C)C | C13H14IN3
